US06197973B1
2-Chloro-3-(2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl)acrylic acid
A solution of 44 g of tert-butyl 2-chloro-3-(2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl)acrylate (93 mmol) in 200 ml of dichloromethane was treated with 200 ml of trifluoroacetic acid. After the mixture had been stirred for 16 hours, it was concentrated. The residue was recrystallized from hexane/ethyl acetate (2:1). Yield: 23 g; a further 4 g by concentrating the mother liquor.

reactant | tert-butyl 2-chloro-3-(2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl)acrylate | 93 mmol, 44 g | ClC(C(=O)OC(C)(C)C)=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)F)Cl | C18H16Cl3F3N2O3
reactant | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-Chloro-3-(2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl)acrylic acid | ClC(C(=O)O)=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)F)Cl | C14H8Cl3F3N2O3
